US07560481B2
1-(tetrahydro-2H-pyran-4-ylmethyl)-3-[(2,2,3,3-tetramethylcyclopropyl)carbonyl]-1H-indole-5-carboxamide
A mixture 1-(tetrahydro-2H-pyran-4-ylmethyl)-3-[(2,2,3,3-tetramethylcyclopropyl)carbonyl]-1H-indole-5-carboxylic acid (0.10 g, 0.26 mmol, the minor product of Example 114B), 1,1′-carbonyldimidazole (55 mg, 0.34 mmol) and concentrated aqueous NH4OH (2 mL) in 5 mL of EtOAc and 3 mL of THF was processed as described in Example 93 to provide the title compound (20 mg, 0.052 mmol, 20% yield). 1H NMR (CDCl3, 300 MHz) δ ppm 1.32 (s, 6H), 1.36 (s, 6H), 1.39-1.58 (m, 4H), 1.92 (s, 1H), 2.08-2.23 (m, 1H), 3.34 (dt, J=11.4, 2.5 Hz, 2H), 3.94-4.04 (m, 2H), 4.08 (d, J=7.1 Hz, 2H), 7.41 (d, J=8.5 Hz, 1H), 7.67 (s, 1H), 7.98 (dd, J=8.5, 1.4 Hz, 1H), 8.84 (d, J=1.0 Hz, 1H); MS (DCI/NH3) m/z 383 (M+H)+; Anal. Calculated for C23H30N2O3.0.4H2O: C, 70.89; H, 7.97; N, 7.19. Found: C, 70.77; H, 7.91; N, 7.32.

reactant | 1-(tetrahydro-2H-pyran-4-ylmethyl)-3-[(2,2,3,3-tetramethylcyclopropyl)carbonyl]-1H-indole-5-carboxylic acid | O1CCC(CC1)CN1C=C(C2=CC(=CC=C12)C(=O)O)C(=O)C1C(C1(C)C)(C)C | C23H29NO4
reactant | 1,1′-carbonyldimidazole | 0.34 mmol, 55 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | NH4OH | 2 mL | [NH4+].[OH-]
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 1-(tetrahydro-2H-pyran-4-ylmethyl)-3-[(2,2,3,3-tetramethylcyclopropyl)carbonyl]-1H-indole-5-carboxamide | 0.052 mmol, 20 mg, 20% yield | O1CCC(CC1)CN1C=C(C2=CC(=CC=C12)C(=O)N)C(=O)C1C(C1(C)C)(C)C | C23H30N2O3
